US07173038B1
Triphenylphosphine (615 mg, 2.3 mmol) followed by diethyl azodicarboxylate (369 μl, 2.3 mmol) were added to a solution of 4-hydroxymethyl-1-methylpiperidine (151 mg, 1.1 mmol), (J Med. Chem 1973, 16, 156), and 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.78 mmol), (prepared as described for the starting material in Example 7), in methylene chloride (5 ml). After stirring for 30 minutes at ambient temperature, 4-hydroxymethyl-1-methylpiperidine (151 mg, 0.39 mmol), triphenylphosphine (102 mg, 0.39 mmol) and diethyl azodicarboxylate (61 μl, 0.39 mmol) were added. After stirring for 15 minutes, the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (70/10/20 followed by 75/5/20 and 80/0/20). The fractions containing the expected product were combined and the volatiles were removed by evaporation. The residue was dissolved in a mixture of methylene chloride and methanol and 5M hydrogen chloride in isopropanol was added. The suspension was concentrated and the solid was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline hydrochloride (16 mg, 4%).

reactant | Triphenylphosphine | 2.3 mmol, 615 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.3 mmol, 369 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxymethyl-1-methylpiperidine | 1.1 mmol, 151 mg | OCC1CCN(CC1)C | C7H15NO
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 250 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 4-hydroxymethyl-1-methylpiperidine | 0.39 mmol, 151 mg | OCC1CCN(CC1)C | C7H15NO
reactant | triphenylphosphine | 0.39 mmol, 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.39 mmol, 61 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline hydrochloride | 16 mg, 4% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCN(CC2)C)C=C1)F | InChI=1S/C22H24ClFN4O2.ClH/c1-28-7-5-14(6-8-28)12-30-21-11-19-16(10-20(21)29-2)22(26-13-25-19)27-18-4-3-15(23)9-17(18)24;/h3-4,9-11,13-14H,5-8,12H2,1-2H3,(H,25,26,27);1H
